US04075073
In accordance with this invention, it has been found that the above-described objects can be accomplished by effecting a photolytic reaction between equimolar amounts of perfluoro-t-butyl hypofluorite and tetrafluorohydrazine. The resulting volatile reaction product, NF3, is evacuated at -90° C leaving a pure bis(perfluoro-t-butyl) peroxide residue.

reactant | perfluoro-t-butyl hypofluorite | FOC(C(F)(F)F)(C(F)(F)F)C(F)(F)F | C4F10O
reactant | tetrafluorohydrazine | FN(N(F)F)F | F4N2
product | bis(perfluoro-t-butyl) peroxide | FC(C(C(F)(F)F)(C(F)(F)F)OOC(C(F)(F)F)(C(F)(F)F)C(F)(F)F)(F)F | C8F18O2
